US04107326
Methyl N-ethylthiocarbazimidate hydroiodide
A stirred solution of 97.0 g. of 4-ethyl-3-thiosemicarbazide and 127.8 g. of ethyl iodide in 500 ml. of ethanol is heated under reflux for 18 hours. The reaction mixture is concentrated under reduced pressure, diluted with n-hexane and filtered, giving the desired product as a nearly colorless solid, m.p. 73°-74° C.

reactant | 4-ethyl-3-thiosemicarbazide | C(C)NC(NN)=S | C3H9N3S
reactant | ethyl iodide | C(C)I | C2H5I
solvent | ethanol | C(C)O | C2H6O
product | Methyl N-ethylthiocarbazimidate hydroiodide | I.C(C)N=C(NN)SC | InChI=1S/C4H11N3S.HI/c1-3-6-4(7-5)8-2;/h3,5H2,1-2H3,(H,6,7);1H
